US07504401B2
Dimethyl-(3-nitro-pyridin-2-yl)-amine was obtained as a byproduct from the reaction of 2-chloro-3-nitro-pyridine with pent-4-en-1-ol (2 eq.) and sodium hydride (3 eq.) in DMF at 100° C. overnight. To this compound (0.122 g) in a mixture of ethyl acetate/methanol (5 mL, 1:1) was added 10% Pd on carbon (24 mg). The reaction mixture was hydrogenated at 50 psi hydrogen overnight. After filtration and removal of the solvents, dimethyl-(3-amino-pyridin-2-yl)-amine (0.100 g, 100%) was obtained. 4-[3-bromo-5-(4-methoxy-benzyloxy)-phenyl]-1-triisopropylsilanyl-1H-indole and dimethyl-(3-amino-pyridin-2-yl)-amine were coupled as described for Example 82. Deprotection as described in Example 35 gave 3-(2-dimethylamino-pyridin-3-ylamino)-5-(1H-indol-4-yl)-phenol. 1H NMR (400 MHz, CD3OD): δ 7.74 (dd, J=4.8, 1.5 Hz, 1H), 7.57 (dd, J=7.9, 1.4 Hz, 1H), 7.32 (d, J=8.0 Hz, 1H), 7.22 (d, J=3.3 Hz, 1H), 7.11 (t, J=7.7 Hz, 1H), 7.05 (dd, J=7.3, 0.8 Hz, 1H), 6.86-6.81 (m, 2H), 6.72 (t, J=1.7 Hz, 1H), 6.62 (d, J=3.1 Hz, 1H), 6.52-6.48 (m, 1H), 2.80 (s, 6H).

reactant | 4-[3-bromo-5-(4-methoxy-benzyloxy)-phenyl]-1-triisopropylsilanyl-1H-indole | BrC=1C=C(C=C(C1)OCC1=CC=C(C=C1)OC)C1=C2C=CN(C2=CC=C1)[Si](C(C)C)(C(C)C)C(C)C | C31H38BrNO2Si
reactant | dimethyl-(3-amino-pyridin-2-yl)-amine | CN(C1=NC=CC=C1N)C | C7H11N3
product | 3-(2-dimethylamino-pyridin-3-ylamino)-5-(1H-indol-4-yl)-phenol | CN(C1=NC=CC=C1NC=1C=C(C=C(C1)C1=C2C=CNC2=CC=C1)O)C | C21H20N4O
